US09302991B2
<Step-2>:5-chloro-N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide
A mixture of 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid (2.0 g, 7.8 mmol, Step-1), N,O-dimethylhydroxylamine hydrochloride (0.916 g, 9.39 mmol), HBTU (3.56 g, 9.39 mmol) and triethylamine (5.45 mL, 39.1 mmol) in dichloromethane (39 mL) is stirred at room temperature for 3 hours. The reaction mixture is poured into water (100 mL) and extracted with dichloromethane (200 mL). The organic layer is washed with water (100 mL) and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (4:1) to give 2.2 g (94% yield) of the title compound as a white solid.

reactant | 5-chloro-6-(2,2,2-trifluoroethoxy)nicotinic acid | 7.8 mmol, 2.0 g | ClC=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C8H5ClF3NO3
reactant | N,O-dimethylhydroxylamine hydrochloride | 9.39 mmol, 0.916 g | Cl.CNOC
reactant | HBTU | 9.39 mmol, 3.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 39.1 mmol, 5.45 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 39 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 5-chloro-N-methoxy-N-methyl-6-(2,2,2-trifluoroethoxy)nicotinamide | 2.2 g, 94% yield | ClC=1C(=NC=C(C(=O)N(C)OC)C1)OCC(F)(F)F | C10H10ClF3N2O3
